US04282380
Preparation of N-Isopropyl-4-propyl-m-toluidine
By the procedure of Example 1, α-chloro-2-propyl-5-nitrotoluene is reacted with acetone to afford the desired title product.

reactant | α-chloro-2-propyl-5-nitrotoluene | ClCC1=C(C=CC(=C1)[N+](=O)[O-])CCC | C10H12ClNO2
reactant | acetone | CC(=O)C | C3H6O
product | N-Isopropyl-4-propyl-m-toluidine | C(C)(C)NC1=CC(=C(C=C1)CCC)C | C13H21N
